### PR TITLE
[Merged by Bors] - feat: port NumberTheory.ArithmeticFunction

### PR DESCRIPTION
**Pull request by riccardobrasca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 1]
```diff
@@ -0,0 +1,1102 @@
...
+instance : FunLike (ArithmeticFunction R) ℕ fun _ ↦ R :=
+  inferInstanceAs (FunLike (ZeroHom ℕ R) ℕ fun _ ↦ R)
+
+@[simp]
+theorem toFun_eq (f : ArithmeticFunction R) : f.toFun = f := by
+  rfl
+#align nat.arithmetic_function.to_fun_eq Nat.ArithmeticFunction.toFun_eq
+
+@[simp]
+theorem eq_toFun (f : ArithmeticFunction R) : f = f.toFun := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:94]: I've added this by hand, it seems more useful than `toFun_eq` above, but I don't fully understand how coercions work now. In any case without it certain proofs break.

**Comment by adomani** [comment]
The only remaining issue with this PR are two `norm_cast` warning: `norm_cast: badly shaped lemma, lhs must contain at least one coe`.

**Comment by riccardobrasca** [comment]
> The only remaining issue with this PR are two `norm_cast` warning: `norm_cast: badly shaped lemma, lhs must contain at least one coe`.

I've removed them, not sure it's the correct solution.

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 1 above)
Comment (ChrisHughes24) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:94]: I'm surprised this doesn't cause simp to loop with `toFun_eq` also being a `simp` lemma. I think the normal form should be `FunLike.coe`, so we shouldn't have this lemma

Comment (riccardobrasca) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: Since you're version works I am completely happy with it.

**Comment by semorrison** [comment]
> > The only remaining issue with this PR are two `norm_cast` warning: `norm_cast: badly shaped lemma, lhs must contain at least one coe`.
> 
> I've removed them, not sure it's the correct solution.

@riccardobrasca, I think instead the correct solution is to put `@[coe]` on `natToArithmeticFunction` (and restore the `norm_casts` from mathlib3).

**Comment by adomani** [comment]
@semorrison, I added the `coe` tag, but only one `norm_cast`: the other caused the linter to complain.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 2]
```diff
@@ -15,6 +15,7 @@ import Mathlib.Data.Nat.Squarefree
 import Mathlib.Data.Nat.GCD.BigOperators
 import Mathlib.Algebra.Invertible
 import Mathlib.Data.Nat.Factorization.Basic
+import Mathlib.Tactic.LibrarySearch
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:18]: Probably, this is not needed anymore.
```suggestion
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 3]
```diff
@@ -77,21 +82,25 @@ section Zero
...
 variable [Zero R]
 
-instance : CoeFun (ArithmeticFunction R) fun _ => ℕ → R :=
-  ZeroHom.hasCoeToFun
+instance : FunLike (ArithmeticFunction R) ℕ fun _ ↦ R :=
+  inferInstanceAs (FunLike (ZeroHom ℕ R) ℕ fun _ ↦ R)
 
 @[simp]
-theorem toFun_eq (f : ArithmeticFunction R) : f.toFun = f :=
+theorem toFun_eq (f : ArithmeticFunction R) : f.toFun = f := by
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:89]: Why do you need `by` here?

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 4]
```diff
@@ -77,21 +82,25 @@ section Zero
 
 variable [Zero R]
 
-instance : CoeFun (ArithmeticFunction R) fun _ => ℕ → R :=
-  ZeroHom.hasCoeToFun
+instance : FunLike (ArithmeticFunction R) ℕ fun _ ↦ R :=
+  inferInstanceAs (FunLike (ZeroHom ℕ R) ℕ fun _ ↦ R)
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:86]: Please add a porting note about moving from `CoeFun` to `FunLike`.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 5]
```diff
@@ -77,21 +82,25 @@ section Zero
...
+  (ZeroHom.mk f hf) = f := rfl
+
 @[simp]
 theorem map_zero {f : ArithmeticFunction R} : f 0 = 0 :=
   ZeroHom.map_zero' f
 #align nat.arithmetic_function.map_zero Nat.ArithmeticFunction.map_zero
 
 theorem coe_inj {f g : ArithmeticFunction R} : (f : ℕ → R) = g ↔ f = g :=
-  ⟨fun h => ZeroHom.coe_inj h, fun h => h ▸ rfl⟩
+  ⟨fun h => FunLike.coe_injective h, fun h => h ▸ rfl⟩
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:103]:
```suggestion
  FunLike.coe_fn_eq
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 6]
```diff
@@ -133,61 +142,63 @@ end One
...
-      simp⟩⟩
+  ⟨natToArithmeticFunction⟩
 #align nat.arithmetic_function.nat_coe Nat.ArithmeticFunction.natCoe
 
-@[simp]
-theorem natCoe_nat (f : ArithmeticFunction ℕ) : (↑f : ArithmeticFunction ℕ) = f :=
-  ext fun _ => cast_id _
-#align nat.arithmetic_function.nat_coe_nat Nat.ArithmeticFunction.natCoe_nat
+-- Porting note : there was a theorem `(↑f : ArithmeticFunction ℕ) = f` that is now a syntactic
+-- equality.
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:157]: Probably, there is some `Coe*` instance for `id` and Lean 4 finds it before `natToArithmeticFunction`. You should restore this lemma with `natToArithmeticFunction f` in the LHS.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 7]
```diff
@@ -133,61 +142,63 @@ end One
...
-      simp⟩⟩
+  ⟨intToArithmeticFunction⟩
 #align nat.arithmetic_function.int_coe Nat.ArithmeticFunction.intCoe
 
-@[simp]
-theorem intCoe_int (f : ArithmeticFunction ℤ) : (↑f : ArithmeticFunction ℤ) = f :=
-  ext fun _ => Int.cast_id _
-#align nat.arithmetic_function.int_coe_int Nat.ArithmeticFunction.intCoe_int
+-- Porting note : there was a theorem `(↑f : ArithmeticFunction ℤ) = f` that is now a syntactic
+-- equality.
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:177]: Same here.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 8]
```diff
@@ -133,61 +142,63 @@ end One
...
+    ((f : ArithmeticFunction ℤ) : ArithmeticFunction R) = (f : ArithmeticFunction R) := by
   ext
   simp
 #align nat.arithmetic_function.coe_coe Nat.ArithmeticFunction.coe_coe
 
 @[simp]
-theorem natCoe_one [AddMonoidWithOne R] : ((1 : ArithmeticFunction ℕ) : ArithmeticFunction R) = 1 :=
-  by
+theorem natCoe_one [AddMonoidWithOne R] : ((1 : ArithmeticFunction ℕ) :
+    ArithmeticFunction R) = 1 := by
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:194]: IMHO, this is more readable.
```suggestion
theorem natCoe_one [AddMonoidWithOne R] :
    ((1 : ArithmeticFunction ℕ) : ArithmeticFunction R) = 1 := by
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 9]
```diff
@@ -196,41 +207,46 @@ section AddMonoid
...
-instance : AddMonoid (ArithmeticFunction R) :=
-  { ArithmeticFunction.hasZero R,
-    ArithmeticFunction.hasAdd with
+instance instAddMonoid : AddMonoid (ArithmeticFunction R) :=
+  { ArithmeticFunction.zero R,
+    ArithmeticFunction.add with
     add_assoc := fun _ _ _ => ext fun _ => add_assoc _ _ _
     zero_add := fun _ => ext fun _ => zero_add _
     add_zero := fun _ => ext fun _ => add_zero _ }
+-- porting note: have I aligned this correctly?
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:224]: TODO (possibly, after port): do we have this instance for `ZeroHom`? Should we reuse it here? Also, we have `Function.Injective.addMonoid`.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 10]
```diff
@@ -270,7 +286,8 @@ theorem natCoe_mul [Semiring R] {f g : ArithmeticFunction ℕ} :
   simp
 #align nat.arithmetic_function.nat_coe_mul Nat.ArithmeticFunction.natCoe_mul
 
-@[simp, norm_cast]
+@[simp] -- porting note: the tag `norm_cast`, present in mathlib3, causes the linter to complain:
+        -- `badly shaped lemma, lhs must contain at least one coe`
 theorem intCoe_mul [Ring R] {f g : ArithmeticFunction ℤ} :
     (↑(f * g) : ArithmeticFunction R) = f * g := by
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:292]: Here, the problem is that Lean 4 interprets RHS as `↑(f * g)` instead of `↑f * ↑g`. You should add an explicit `↑` somewhere in the RHS.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 11]
```diff
@@ -423,41 +456,44 @@ theorem zeta_apply_ne {x : ℕ} (h : x ≠ 0) : ζ x = 1 :=
   if_neg h
 #align nat.arithmetic_function.zeta_apply_ne Nat.ArithmeticFunction.zeta_apply_ne
 
-@[simp]
+-- Porting note: removed `@[simp]` to make the linter happy.
```
Comment (urkud) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:459]: What did the linter say?

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:86]: Done!

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: Removed `by` and moved `rfl` on previous line.

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 10 above)
Comment (adomani) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:291]: I tried this, but apparently no choice of subset of `f, g` on which to put the coercion makes the `norm_cast` linter happy.  Note that it complains about the LHS, not the RHS.

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 11 above)
Comment (adomani) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:458]: /- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
#check @Nat.ArithmeticFunction.coe_zeta_smul_apply /- Left-hand side simplifies from
  ↑(↑Nat.ArithmeticFunction.zeta • f) x
to
  ∑ x in Nat.divisorsAntidiagonal x, (if x.fst = 0 then 0 else 1) • ↑f x.snd
using
  simp only [@Nat.ArithmeticFunction.smul_apply,
 @Nat.ArithmeticFunction.natCoe_apply,
 @Nat.ArithmeticFunction.zeta_apply,
 @Nat.cast_ite,
 @Nat.cast_zero,
 @Nat.cast_one]
Try to change the left-hand side to the simplified term!
 -/

 Should I follow the suggestion of the linter?

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 6 above)
Comment (adomani) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: Added, happy linter!

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 7 above)
Comment (adomani) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: Added, happy linter!

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 10 above)
Comment (ChrisHughes24) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:293]: It's because the coercion didn't have the `@[coe]` attribute

**Comment by ChrisHughes24** [comment]
bors merge

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 12]
```diff
@@ -0,0 +1,1171 @@
...
+#align nat.arithmetic_function.one_apply_ne Nat.ArithmeticFunction.one_apply_ne
+
+end One
+
+end Zero
+
+/-- Coerc an arithmetic function with values in `ℕ` to one with values in `R`. We cannot inline
+this in `natCoe` because it gets unfolded too much. -/
+@[coe]  -- porting note: added `coe` tag.
+def natToArithmeticFunction [AddMonoidWithOne R] :
```
Comment (adomani) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:147]: By analogy with `ofInt`, should this one be called `ofNat`?

**Review by adomani — COMMENTED** [review]
@ChrisHughes24, thanks: I now have a slightly less vague idea of coercions in Lean4!
